US08536160B2
6α-Methoxymethylandrostane-3,17-dione (II-ae)
The title compound II-ae was prepared in 88% yield from 3,3:17,17-bis(ethylendioxy)-6α-methoxymethylandrostane by the procedure described above for the preparation of 6-methyleneandrostane-3,17-dione (II-ac, Prepn. 13). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 3.25 (3H, s), 3.24 (2H, m), 2.53-0.75 (21H, m), 1.11 (3H, s), 0.87 (3H, s).

reactant | 17,17-bis(ethylendioxy)-6α-methoxymethylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)COC | C25H40O5
reactant | 6-methyleneandrostane-3,17-dione | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O2
product | 6α-Methoxymethylandrostane-3,17-dione | 88% yield | COC[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H32O3
